US08912188B2
To a solution of 2-bromo-6-fluoro-1-benzofuran (450 mg, 2.09 mmol) in DMSO (10 mL) was added KOAc (410 mg, 4.18 mmol), Pd(dppf)Cl2 (150 mg, 0.21 mmol), 15 min later was added 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (1 g, 3.94 mmol) at room temperature. After stirring for 2 h at 85° C., the reaction mixture was dissolved in water (100 mL), extracted with ethyl acetate (3×20 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford 2-(6-fluoro-1-benzofuran-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as a black solid (0.6 g, crude).

reactant | 2-bromo-6-fluoro-1-benzofuran | 2.09 mmol, 450 mg | BrC=1OC2=C(C1)C=CC(=C2)F | C8H4BrFO
reactant | KOAc | 4.18 mmol, 410 mg | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 3.94 mmol, 1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.21 mmol, 150 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-fluoro-1-benzofuran-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC1=CC2=C(C=C(O2)B2OC(C(O2)(C)C)(C)C)C=C1 | C14H16BFO3
